US05262390
By the method of Example 1, Step D, of U.S. Pat. No. 4,906,281, 1.50 g (0.00325 mole) of methyl 2-[2-[4-(perhydropyridazin-1-ylthiocarbonylamino)-3-fluorophenoxymethyl]-5-methylphenoxy]propionate and 0.36 g (0.09017 mole) of trichloromethyl chloroformate were reacted in the presence of 0.36 g (0.0035 mole) of triethylamine in 35 mL of dioxane, yielding 0.50 g of methyl 2-[2-[4-(8-thia-1,6-diazabicyclo[4.3.0]nonane-7-on-9-ylimino)-3-fluorophenoxymethyl]-5-methylphenoxy]propionate as a syrup. The NMR and IR spectra were consistent with the proposed structure. NMR: 1.60 (d, 3H, JHH =8.0 Hz); 1.78-1.96 (m, 4H); 2.30 (s, 3H); 3.64-3.80 (m, 4H): 3.70 (s, 3H); 4.80 (q, 1H, JHH =8.0 Hz); 5.10 dd, 2H); 6.58-7.30 (m, 6H).

reactant | methyl 2-[2-[4-(perhydropyridazin-1-ylthiocarbonylamino)-3-fluorophenoxymethyl]-5-methylphenoxy]propionate | 0.00325 mole, 1.50 g | N1(NCCCC1)C(=S)NC1=C(C=C(OCC2=C(OC(C(=O)OC)C)C=C(C=C2)C)C=C1)F | C23H28FN3O4S
reactant | trichloromethyl chloroformate | 0.09017 mole, 0.36 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | triethylamine | 0.0035 mole, 0.36 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | methyl 2-[2-[4-(8-thia-1,6-diazabicyclo[4.3.0]nonane-7-on-9-ylimino)-3-fluorophenoxymethyl]-5-methylphenoxy]propionate | 0.50 g | N12CCCCN2C(SC1N=C1C(C=C(OCC2=C(OC(C(=O)OC)C)C=C(C=C2)C)C=C1)F)=O | C24H28FN3O5S
